US07179823B1
To a solution of ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-hydroxy-1H-pyrazol-4-yl]propionate (4.29 g) in tetrahydrofuran (100 ml), sodium hydride (60%, oily, 420 mg) was added at 0° C., and the solution was stirred for 10 minutes. N-Phenyltrifluoromethanesulfonimide (3.75 g) was added to the reaction mixture, which was stirred at 0° C. for 20 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate solution, 1 N hydrochloric acid, then with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-trifluoromethanesulfonyloxy-1H-pyrazol-4-yl]propionate (5.02 g, yield: 91%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-hydroxy-1H-pyrazol-4-yl]propionate | 4.29 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)O)C=C1)C | C24H25N3O6
reactant | sodium hydride | 420 mg | [H-].[Na+]
reactant | N-Phenyltrifluoromethanesulfonimide | 3.75 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-trifluoromethanesulfonyloxy-1H-pyrazol-4-yl]propionate | 5.02 g, yield: 91% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)OS(=O)(=O)C(F)(F)F)C=C1)C | C25H24F3N3O8S
